US03996278
A mixture of 95 ml of 35% formaldehyde solution and 100 ml of dioxane is dropped into a solution of 80 g of tertiary butylamine in 350 ml of dioxane, cooled to 15° C, with stirring. The mixture is allowed to stand over night, then heated to 80° C. In the course of 4 hours a solution of 252 g of 2,4-dibromophenol in 250 ml of dioxane is dropped thereto, precipitating thereby the main charge of the reaction product. 1 hour after completion of this addition it is cooled, the precipitate is sucked off, washed with ethanol on the filter and dried. By concentrating the dioxane-mother liquor and the alcoholic washing liquid further material is obtained. Remaining reaction product precipitates from the dioxane concentrate in form of the hydrochloride by heating with alcoholic HCl. The hydrochloride is converted in H2O/CHCl3 in the free base with HaHCO3. Total yield = 268 g (79,5% of the theory). Recrystallization from acetic ester yields the N-(2-hydroxy-3,5-dibromobenzyl)-tert.butylamine in form of colorless felted needles, melting at 173° - 175° C.

reactant | formaldehyde | 95 ml | C=O | CH2O
reactant | tertiary butylamine | 80 g | C(C)(C)(C)N | C4H11N
reactant | 2,4-dibromophenol | 252 g | BrC1=C(C=CC(=C1)Br)O | C6H4Br2O
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(2-hydroxy-3,5-dibromobenzyl)-tert.butylamine | OC1=C(CNC(C)(C)C)C=C(C=C1Br)Br | C11H15Br2NO
